2127-07-12 08:31:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with HTN, COPD, and new diagnosis of metastatic ovarian cancer,
   presents with delerium, ARF and hypotension of unclear etiology.
   Ovarian cancer resulted in malignant pleural effusion, lead to pleurex
   catheter since [**6-23**]. HPI notable for poor POs at home.
   24 Hour Events:
   -sectioned 12'd
   -admitted to micu overnight
   -remained afebrile
   -stable over ight
   -hpi
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2127-7-11**] 11:45 PM
   Metronidazole - [**2127-7-12**] 07:48 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-7-12**] 07:49 AM
   Other medications:
   dopa, flagyl, sqh
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, No(t) Weight loss
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-12**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.4
C (95.8
   HR: 64 (59 - 74) bpm
   BP: 101/44(57) {92/39(54) - 108/50(65)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   Bladder pressure: 28 (28 - 28) mmHg
   Total In:
                                                                  2,877 mL
                                                                  2,852 mL
   PO:
   TF:
   IVF:
                                                                    377 mL
                                                                  2,852 mL
   Blood products:
   Total out:
                                                                     85 mL
                                                                    313 mL
   Urine:
                                                                     85 mL
                                                                    313 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,792 mL
                                                                  2,539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, No(t) Obese, catheter site
   clean, dry, intact
   Extremities: Right: 2+, Left: 2+, tender
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   412 K/uL
   103 mg/dL
   2.8 mg/dL
   16 mEq/L
   4.3 mEq/L
   62 mg/dL
   108 mEq/L
   140 mEq/L
   30.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
   WBC
   11.2
   Hct
   30.7
   Plt
   412
   Cr
   2.8
   Glucose
   103
   Other labs: PT / PTT / INR:11.7/23.0/1.0, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:92.0 %, Lymph:4.1 %, Mono:3.4 %,
   Eos:0.2 %, Lactic Acid:1.7 mmol/L, LDH:1413 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr: streaky l base opacity
   Microbiology: pending
   Assessment and Plan
   78F with metastatic ovarian CA, presentes with subacute delirium and
   hypotension, concerning for sepsis but no clear infectious source:
   hypotension, possible sepsis, could be dehydration: declining central
   line but now getting picc
   -cont broad abx
   -fu cultures
   -cont fluid boluses
   -cont levo or dopamine as needed
   -send fluid from pleurex catheter if any (will ask IP)
   -considering other etiologies (pe, adrenal insufficiency - [**Last Name (un) 402**] stim)
   -serial bladder pressure checks though no clear way to relieve
   obstruction
   -will send SCvO2
   -abd u/s looking for fluid collection
   delirum
   -considering head ct when stable, esp if no resolution of sx after
   treatment of metabolic abnormalities
   -followed by psych
   arf: improving with hydration
   -monitor uop
   -bladder pressures
   cancer
   -will contact primary oncologist re future plans
   Htn
   -holding home meds
   ICU Care
   Nutrition: start when ready to eat
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2127-7-11**] 11:14 PM
   20 Gauge - [**2127-7-11**] 11:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (HCP aware)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-07-13 07:27:00 Physician Resident Progress Note
Chief Complaint: hypotension ? sepsis
   24 Hour Events:
   - Spoke with HCP and decision to make patient DNR/DNI was made.
   Patient would prefer for HCP to make this decision.
   - Broadened Antibiotics to vanco/aztreonam/flagyl
   - Will need to check vanco levels for dosing given rapidly changing
   renal function
   - renal function improving substantially with IVFs
   - Levophed weaned from 0.28 to 0.04 after patient 7 L positive then
   back up in the early morning to 0.16
   - reports improved thirst
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-7-12**] 09:17 AM
   Vancomycin - [**2127-7-12**] 12:30 PM
   Aztreonam - [**2127-7-12**] 11:25 PM
   Metronidazole - [**2127-7-13**] 12:21 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-7-12**] 11:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-7-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 68 (58 - 70) bpm
   BP: 111/59(78) {96/43(60) - 122/65(86)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  7,151 mL
                                                                    683 mL
   PO:
             TF:
   IVF:
                                                                  7,151 mL
                                                                    683 mL
   Blood products:
   Total out:
                                                                    767 mL
                                                                    138 mL
   Urine:
                                                                    707 mL
                                                                    138 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,384 mL
                                                                    545 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.26/32/111/12/-11
   Physical Examination
   Gen: NAD, less thirsty
   CV: RRR, no m/r/g/
   Pulm: CTA anteriorly
   Abd: obese, firm, bowel sounds present
   Ext: b/l pitting edema
   Labs / Radiology
   393 K/uL
   9.6 g/dL
   107 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.3 mEq/L
   53 mg/dL
   110 mEq/L
   138 mEq/L
   29.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
   WBC
   11.2
   9.6
   12.6
   Hct
   30.7
   32.1
   29.6
   Plt
   [**Telephone/Fax (3) 9332**]
   Cr
   2.8
   2.3
   2.4
   2.4
   TCO2
   15
   Glucose
   103
   525
   143
   107
   Other labs: PT / PTT / INR:12.7/25.0/1.1, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:95.7 %, Lymph:2.5 %, Mono:1.7 %,
   Eos:0.1 %, Lactic Acid:1.8 mmol/L, LDH:1413 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78 y/o F with hx of HTN, COPD, and new diagnosis of metastatic ovarian
   cancer who presents with delerium, ARF and hypotension.
   .
   # Hypotension: unclear etiology at this time.  Patient has positive UA
   and is being treated with broad spectrum antibiotics, but not
   tachycardic or septic which argues against it as the primary cause.
   Patient with 1+ wk of poor PO intake, so maybe severely volume
   depleted, but again would expect tachycardia.  Could be secondary to
   med effects if she was taking her antihypertensives inappropriately or
   taking extra ativan.  Bedside echo negative for pericardial effusion.
   Leg tenderness but no hypoxia concerning for PE.  Could be adrenal
   insufficiency from mets to adrenal glands, but also less likely.
   - vanco/cipro/flagyl
   - still unclear etiology
   - US abd to better evaluate
   - PICC placed, transition dopamine to levophed
   - continue workup as above
   - steroids while waiting for [**Last Name (un) 402**] stim
   .
   # ARF: has hx of CKD stage IV with baseline creatinine around 1.8;
   likely prerenal from poor PO intake.  Making urine per history.
   - likely prerenal
   - renal dose meds, avoid nephrotoxins
   .
   # Delerium: again unclear etiology.  Most likely uremia at this point
   based on metabolic abnormalities.  Less likely secondary to ingestions,
   metastatic disease to the brain, or hypoglycemia.
   - IVF resuccitation
   - fingerstick QID
   - tox screens negative
   - consider CT of head
 when stabalized
   .
   # Anion Gap Acidosis: AG of 18, has elevated lactate of 2.3 and trace
   ketones in urine.  Likely secondary to hypotension with mild
   hypoperfusion or tissue and starvation ketosis.
   - IVF resuccitation
   .
   # Ovarian Cancer: new diagnosis of widespread metastatic ovarian
   cancer.  Plan for treatment in future.
   - heme onc consult in AM
   .
   # Lower extremity edema - has been progressing over last two to three
   weeks, concerning for lymph obstruction vs. clot in the IVC.  Consider
   therapeutic paracentesis v. imaging.
   - abd US pending
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subutaneous heparin
   # Access: peripherals
   # Code:  Full (discussed with patient)
   # Communication: Patient, see OMR for HCP (nephew) [**Name (NI) 9296**] [**Name (NI) 9297**] in
   [**Name (NI) 2715**] [**Telephone/Fax (1) 9298**] (home)
   # Disposition: pending clinical improvement, section 12; patient cannot
   leave AMA
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Arterial Line - [**2127-7-12**] 06:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2127-07-13 10:31:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with recent new diagnosis of metastatic ovarian ca, presented with
   confusion and hypotension, now with persistent pressor requirement:
   24 Hour Events:
   -persistent pressor requirement despite aggressive fluids
   -ongoing goals of care discussion
   -abd u/s, no hydro
   -mentation improved
   -tte results pending
   -[**Last Name (un) 402**] stim neg
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-7-12**] 09:17 AM
   Vancomycin - [**2127-7-12**] 12:30 PM
   Aztreonam - [**2127-7-13**] 08:31 AM
   Metronidazole - [**2127-7-13**] 08:31 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-7-13**] 08:31 AM
   Other medications:
   flagyl, sqh, norepi, aztreonam, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-13**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 77 (58 - 77) bpm
   BP: 99/50(70) {96/43(60) - 122/65(86)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  7,151 mL
                                                                    928 mL
   PO:
             TF:
   IVF:
                                                                  7,151 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                    767 mL
                                                                    218 mL
   Urine:
                                                                    707 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,384 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.26/32/111/12/-11
   Physical Examination
   General Appearance: No(t) No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal) No murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : r base) Bronchial breath sounds right base.
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: minimal. Very firm left abdomen-?masses
   Extremities: Right: 2+ edema, Left: 2+, less tender
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   393 K/uL
   107 mg/dL
   2.4 mg/dL
   12 mEq/L
   4.3 mEq/L
   53 mg/dL
   110 mEq/L
   138 mEq/L
   29.6 %
   12.6 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
   WBC
   11.2
   9.6
   12.6
   Hct
   30.7
   32.1
   29.6
   Plt
   [**Telephone/Fax (3) 9332**]
   Cr
   2.8
   2.3
   2.4
   2.4
   TCO2
   15
   Glucose
   103
   525
   143
   107
   Other labs: PT / PTT / INR:12.7/25.0/1.1, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:95.7 %, Lymph:2.5 %, Mono:1.7 %,
   Eos:0.1 %, Lactic Acid:1.8 mmol/L, LDH:1413 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: abd/renal us: No evidence of hydronephrosis bilaterally.
   Moderate amount of free fluid in the abdomen.
   Microbiology: all pending
   Assessment and Plan
   78F with recent new diagnosis of metastatic ovarian ca, presented with
   confusion and hypotension, now with persistent pressor requirement,
   with significant metabolic acidosis of unclear etiology. Although she
   is at risk for gi pathology leading to sepsis, her overall picture
   remains somewhat mysterious. She has definitely improved with fluids,
   abx, and hemodynamic support.
   hypotension: likely atypical presentation of septic shock
   -continue antibiotics: vanco aztreo flagyl, plan for 2 wk course unless
   new information
   -vre swab to assess possible need for linezolid
   -ct torso if condition worsens.
   arf on CKD: resolving, though still oliguric; maybe related to
   abdominal compression
   -cont volume prn to keep urine output > 30 cc/hr.
   metabolic acidosis: in the setting of ns resuscitation. Probable anion
   gap and non gap acidosis (anion gap likely secondary to renal failure).
   Consider renal tubular acidosis as well as dilutional acidosis from
   volume resuscitation.
   -next bolus with LR or D5 with bicarb
   confusion: resolving
   -head ct as part of metastatic workup if mental status does not
   continue to clear.
   Pleural effusion: direct mets to pleural space per bx.
   Anemia: no evidence of bleeding, but will monitor stool guaiac. Bili
   normal but LDH elevated. Check haptoglobin.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Arterial Line - [**2127-7-12**] 06:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2127-07-14 06:59:00 Physician Resident Progress Note
Chief Complaint:  Confusion and Hypotension
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-7-14**] 05:23 AM
   - weaned off of pressors
   - mental status improving
   - considered CT head and torso to eval for MS as well as source of
   possible infection.  Decided against this as MS cleared.
   - LENIs ordered for b/l leg swelling.  To be performed today
   - iron studies/haptog ordered
   - pt with dark stool-guaiac positive, sending for repeat HCT-stable,
   PPI ordered
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-7-12**] 09:17 AM
   Vancomycin - [**2127-7-12**] 12:30 PM
   Aztreonam - [**2127-7-14**] 12:00 AM
   Metronidazole - [**2127-7-14**] 12:36 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-7-13**] 03:44 PM
   Pantoprazole (Protonix) - [**2127-7-13**] 10:28 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-7-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (65 - 77) bpm
   BP: 78/38(47) {78/38(47) - 119/54(67)} mmHg
   RR: 12 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,599 mL
                                                                  1,651 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  1,599 mL
                                                                  1,551 mL
   Blood products:
   Total out:
                                                                    411 mL
                                                                     84 mL
   Urine:
                                                                    411 mL
                                                                     84 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                  1,567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Gen: NAD, less thirsty
   CV: RRR, no m/r/g/
   Pulm: CTA anteriorly
   Abd: obese, firm, bowel sounds present
   Ext: b/l pitting edema
   Labs / Radiology
   374 K/uL
   9.1 g/dL
   109 mg/dL
   2.4 mg/dL
   18 mEq/L
   3.8 mEq/L
   54 mg/dL
   111 mEq/L
   142 mEq/L
   29.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
   WBC
   11.2
   9.6
   12.6
   10.1
   Hct
   30.7
   32.1
   29.6
   30.0
   29.8
   Plt
   [**Telephone/Fax (3) 9344**]74
   Cr
   2.8
   2.3
   2.4
   2.4
   2.4
   2.4
   TCO2
   15
   Glucose
   103
   525
   143
   107
   93
   109
   Other labs: PT / PTT / INR:13.3/26.4/1.1, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:91.5 %, Lymph:4.6 %, Mono:3.5 %,
   Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic Acid:1.8 mmol/L, LDH:1413 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   78 y/o F with hx of HTN, COPD, and new diagnosis of metastatic ovarian
   cancer admitted with confusion and hypotension secondary to hypovolemia
   versus sepsis.
   # Hypotension.  Hypotension secondary to infection versus profound
   dehyration in setting of new diagnosis of malignancy.  He has no
   positive culture data, but is being broadly covered with
   vanco/aztreonam/flagyl.  She has ascites, but unable to sample this
   fluid.  Patient has been requiring high doses of pressors to support
   blood pressure.  Echo is pending.
   - cont vanco/aztreonam/flagyl for presumed intra-abdominal course, 7
   day course
   - f/u culture data
   - will defer CT torso for now given patient
s improvement
   # Acute on chronic renal failure.  Patient has a history of CKD stage
   IV with baseline creatinine around 1.8.  Creatinine improved with
   fluids, but ongoing renal failure suggesting of worsening baseline or
   element of ATN.
   - continue fluid boluses as needed as needed though patient is postiive
   7L [**Location **] [**Location **] dose meds, avoid nephrotoxins
   - recheck bladder pressure
   - will defer renal consult for now
   # Altered mental status.  Patient was initiatlly confused, but now more
   and more clear.  AMS likely secondary to infection, hypotension, renal
   failure, and now resolving.
   - monitor mental status
   - will defer head CT for now
   # Metabolic Acidosis.  Likely secondary to renal failure and massive
   saline infusions.  Also with elevated LDH.
   - Give D5 as needed
   # Ovarian Cancer.  Patient has new diagnosis of widespread metastatic
   ovarian cancer and is saddened by this.  Plan for treatment in future.
   Also with elevated LDH.
   - notified [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2377**] and [**First Name4 (NamePattern1) 1035**] [**Last Name (NamePattern1) 9334**] of her arrival to MICU; they will
   see her today
   - will check lipase, amylase, uric acid
   # Lower extremity edema.  Worsening LE in setting of IVFs.  Likely
   venous obstruction from tumor burden, but possibly thrombus.  Most
   recent LENIs negative.
   - F/U LENIs today
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subutaneous heparin
   # Access: peripherals
   # Code:  DNR/DNI; this decision was disucsed with HCP as patient
   preferred for him to make the decision
   # Communication: Patient, see OMR for HCP (nephew) [**Name (NI) 9296**] [**Name (NI) 9297**] in
   [**Name (NI) 2715**] [**Telephone/Fax (1) 9298**] (home)
   # Disposition: pending clinical improvement, section 12; patient cannot
   leave AMA
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2127-07-14 11:52:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with new diagnosis of metastatic ovarian CA,
   24 Hour Events:
   -bicarb overnight
   -off pressors since yesterday
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-7-12**] 09:17 AM
   Vancomycin - [**2127-7-12**] 12:30 PM
   Metronidazole - [**2127-7-14**] 08:35 AM
   Aztreonam - [**2127-7-14**] 08:36 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-7-13**] 03:44 PM
   Pantoprazole (Protonix) - [**2127-7-13**] 10:28 PM
   Other medications:
   flagyl, sqh, protonix, aztreonam, ns 500 x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-14**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 71 (65 - 74) bpm
   BP: 94/36(50) {78/36(47) - 119/54(67)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,599 mL
                                                                  2,395 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  1,599 mL
                                                                  2,295 mL
   Blood products:
   Total out:
                                                                    411 mL
                                                                    159 mL
   Urine:
                                                                    411 mL
                                                                    159 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                  2,236 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: regular rate, nl s1s2 no m
   Lungs: clear anteriorly; R pleurex catheter in place, c/d/i
   Abd: soft, minimally tender, +masses
   Skin:  no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   374 K/uL
   109 mg/dL
   2.4 mg/dL
   18 mEq/L
   3.8 mEq/L
   54 mg/dL
   111 mEq/L
   142 mEq/L
   29.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
   WBC
   11.2
   9.6
   12.6
   10.1
   Hct
   30.7
   32.1
   29.6
   30.0
   29.8
   Plt
   [**Telephone/Fax (3) 9344**]74
   Cr
   2.8
   2.3
   2.4
   2.4
   2.4
   2.4
   TCO2
   15
   Glucose
   103
   525
   143
   107
   93
   109
   Other labs: PT / PTT / INR:13.3/26.4/1.1, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:91.5 %, Lymph:4.6 %, Mono:3.5 %,
   Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic Acid:1.8 mmol/L, LDH:1413 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   78F with new diagnosis of ovarian ca, admitted with hypotension and
   change in mental status, now with low but stable blood pressure but
   with oliguria and persistent renal dysfunction:
   shock, sepsis though no clear source
   -cont abx, total 7 days though can reassess
   -cont fluids, BP and UOP remain borderline
   -check amylase, lipase
   arf: remains oliguric; bladder pressure high but no intervention
   -check uric acid (given high LDH)
   -check urine lytes
   -may need input from renal
   -check bladder pressure and abd USG to r/o tappable ascites
   cancer
   -onc will come by today to clarify prognosis
   -if acute issues persist, all due to cancer, hospice may be way to go
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition : MICU
   Total time spent: 35 minutes, patient remains critically ill

2127-07-15 07:17:00 Physician Resident Progress Note
Chief Complaint: Hypotension and AMS
   24 Hour Events:
   - LENIs showed bilateral DVTs.  Started on heparin gtt
   - Uric acid found to be elevated at 13.0.  Per Oncology, this is not
   necessarily expected from ovarian tumor
   - Bladder pressure rechecked:  18
   - H/O: pt not able to adress CMO at current time
   - vanc today 18.2
   - u/o improved with D5 HCO3, cre trending down
   - diarrhea, c diff toxin ordered
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2127-7-14**] 12:19 PM (Day # 4)
   Aztreonam - [**2127-7-14**] 11:56 PM (Day #4)
   Metronidazole - [**2127-7-15**] 12:21 AM (Day #5)
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-14**] 09:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-7-15**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 79 (67 - 81) bpm
   BP: 92/40(93) {80/35(46) - 122/81(93)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 71.2 kg
   Height: 62 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,625 mL
                                                                  1,700 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  5,525 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                    377 mL
                                                                    175 mL
   Urine:
                                                                    377 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,248 mL
                                                                  1,525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Gen: NAD, less thirsty
   CV: RRR, no m/r/g/
   Pulm: CTA anteriorly
   Abd: obese, firm, bowel sounds present
   Ext: b/l pitting edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   8.6 g/dL
   301 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.7 mEq/L
   47 mg/dL
   100 mEq/L
   138 mEq/L
   28.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
   WBC
   11.2
   9.6
   12.6
   10.1
   11.1
   Hct
   30.7
   32.1
   29.6
   30.0
   29.8
   28.1
   Plt
   [**Telephone/Fax (3) 9344**]74
   360
   Cr
   2.8
   2.3
   2.4
   2.4
   2.4
   2.4
   2.1
   2.1
   TCO2
   15
   Glucose
   103
   525
   143
   107
   93
   109
   301
   Other labs: PT / PTT / INR:16.2/111.8/1.4, ALT / AST:32/82, Alk Phos /
   T Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:91.5 %,
   Lymph:4.6 %, Mono:3.5 %, Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:1348 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   78 y/o F with hx of HTN, COPD, and new diagnosis of metastatic ovarian
   cancer admitted with confusion and hypotension secondary to hypovolemia
   versus sepsis.
   # Hypotension.  Hypotension thought to be secondary to infection versus
   profound dehydration in setting of new diagnosis of malignancy.  No
   positive culture data to date, but she is being broadly covered with
   vanco/aztreonam/flagyl.  She has moderate ascites, but unable to sample
   this fluid.  Norepinepherine was weaned on [**2127-7-13**], and the patient has
   been stable with periodic fluid boluses since this time, though she is
   now approximately 12 L positive.
   - Cont vanco/aztreonam/flagyl for presumed intra-abdominal course, 10
   day course (now Day #4)
   - f/u culture data
   - Continue periodic fluid boluses with HCO3 though UOP not well
   responsive and already 12L positive LOS
   # DVTs:  The patient had LENIs performed yesterday, which showed
   bilateral DVTs.  She was started on heparin gtt.
   - continue heparin gtt for now
   - Consider changing to Lovenox [**Hospital1 7**] if Cr stabilizes, as this has shown
   to be superior anticoagulation for cancer patients.
   # Acute on chronic renal failure.  Patient has a history of CKD stage
   IV with baseline creatinine around 1.8.  Creatinine improved overnight
   with periodic D5 with HCO3 fluid boluses (from 2.4 to 2.1).  DDx
   includes worsening baseline v ATN in the setting of hypotension.
   - Continue fluid boluses as needed as needed
   - Renally dose meds, avoid nephrotoxins
   - renal consult
   # Altered mental status.  Patient was initiatlly confused, but now more
   alert and oriented.  AMS likely secondary to infection, hypotension,
   renal failure, and now resolving.
   - monitor mental status
   - Psych recommended Zyprexa 2.5 mg PO/IM prn for agitation
   - Defer CT head until patient
s Cr has returned to baseline.
   # Metabolic Acidosis.  Likely secondary to renal failure and massive
   saline infusions.  Also with elevated LDH.
   - Give D5 as needed
   # Ovarian Cancer.  Patient has new diagnosis of widespread metastatic
   ovarian cancer and is saddened by this.  Plan for treatment in future.
   Also with elevated LDH.  She was seen by Heme/Onc yesterday, who
   recommended deferring chemotherapy until infection is resolved and
   patient is no longer hypotensive.
    - Continue to follow Heme/Onc recs
much appreciated!
   - will arrange family meeting
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed; HCP (nephew) [**Name (NI) 9296**] [**Name (NI) 9297**] in [**Name (NI) 2715**]
   [**Telephone/Fax (1) 9298**] (home)
   Code status: DNR / DNI
   Disposition:ICU ;  section 12; patient cannot leave AMA

2127-07-15 10:34:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with newly-diagnosed ovarian ca, presented with profound
   hypotension, likely sepsis though no source, arf, now improving again.
   24 Hour Events:
 ULTRASOUND - At [**2127-7-14**] 10:00 AM
   -5 liter in; remains oliguric
   -dvts identified, started on heparin
   -no capacity to make decisions
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2127-7-14**] 12:19 PM
   Aztreonam - [**2127-7-15**] 08:25 AM
   Metronidazole - [**2127-7-15**] 09:22 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-14**] 09:00 PM
   Other medications:
   metronidazolel iv, aztreonaman, protonix, vanco,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-15**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.6
   HR: 82 (67 - 83) bpm
   BP: 93/45(57) {82/35(46) - 122/81(93)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 71.2 kg
   Height: 62 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,625 mL
                                                                  2,040 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  5,525 mL
                                                                  2,040 mL
   Blood products:
   Total out:
                                                                    377 mL
                                                                    205 mL
   Urine:
                                                                    377 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,248 mL
                                                                  1,835 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: minimally,
   Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   360 K/uL
   301 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.7 mEq/L
   47 mg/dL
   100 mEq/L
   138 mEq/L
   28.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2127-7-12**]  03:46 AM
                             [**2127-7-12**]  02:31 PM
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
   WBC
   11.2
   9.6
   12.6
   10.1
   11.1
   Hct
   30.7
   32.1
   29.6
   30.0
   29.8
   28.1
   Plt
   [**Telephone/Fax (3) 9344**]74
   360
   Cr
   2.8
   2.3
   2.4
   2.4
   2.4
   2.4
   2.1
   2.1
   TCO2
   15
   Glucose
   103
   525
   143
   107
   93
   109
   301
   Other labs: PT / PTT / INR:16.2/51.8/1.4, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:91.5 %,
   Lymph:4.6 %, Mono:3.5 %, Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:1348 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Imaging: LENIS: Bilateral DVT - in the left SFV and in the right CFV,
   SFV.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 DELIRIUM / CONFUSION
 HYPOTENSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   78F with newly-diagnosed ovarian ca, metastatic to r pleura, presented
   with profound hypotension, likely sepsis though no source, arf, now
   improving again slowly:
   hypotension: infection vs dehydration
   -cont broad abx for now, empiric 10-14 days course for peritonitis
   -cont periodic fluid boluses; considering pressors
   -recheck cxr
   dvt: likely cancer related
   -cont heparin; hold off on coumadin for now
   -hope for LMWH when kidney function stabilizes
   oliguric arf
   -will discuss with renal ideas about kidney function and further
   diagnostic work-up
   -trial of higher maps
   delirium: appears improved today
   -discuss with psych and onc capacity to discuss goals of care, etc.
   -head ct non-contrast today
   Ovarian Ca
   -awaiting further  recs
   Family
   -contacting friend, family. [**Name2 (NI) **] issue is need for family meeting to
   come to consensus on goals of care.
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-07-16 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   - Heme/Onc had no new recommendations.  Defer on chemotherapy for now.
   - Psych reassessed patient.  Improved mental status, but may not
   necessarily have the capacity to make decisions regarding treatment at
   present.  Call if any question of leaving.  Recommended Haldol for
   agitation.
   - Spoke to nephew: [**Name (NI) **] will be in town on Saturday.  Until this time, no
   procedures which will cause pain to the patient (i.e. HD), and no
   escalation of care.  As long as patient is stable until Saturday,
   family meeting will occur when he's in town.
   - Renal consulted: agreed with starting Levophed to increase UOP.  Also
   recommended limiting IVFs, check ionized Ca, stop bicarb until Ca is
   corrected, Stop Maalox
   - Ordered HgA1c, as patient's sugars have been high but not on SSI: 6.1
   - UOP on Levo didn't increase.
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2127-7-14**] 12:19 PM
   Aztreonam - [**2127-7-15**] 11:46 PM
   Metronidazole - [**2127-7-15**] 11:46 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-15**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Dyspnea
   Gastrointestinal: distension
   Flowsheet Data as of  [**2127-7-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 75 (70 - 86) bpm
   BP: 97/45(57) {83/36(47) - 123/91(99)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.2 kg
   Height: 62 Inch
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,279 mL
                                                                    405 mL
   PO:
   TF:
   IVF:
                                                                  3,279 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                    261 mL
                                                                     20 mL
   Urine:
                                                                    261 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,018 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   495 K/uL
   118 mg/dL
   2.5 mg/dL
   17 mEq/L
   5.1 mEq/L
   54 mg/dL
   100 mEq/L
   136 mEq/L
   33.5 %
   18.4 K/uL
        [image002.jpg]
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
                             [**2127-7-15**]  02:47 PM
                             [**2127-7-16**]  04:31 AM
   WBC
   12.6
   10.1
   11.1
   18.4
   Hct
   29.6
   30.0
   29.8
   28.1
   33.5
   Plt
   393
   374
   360
   495
   Cr
   2.4
   2.4
   2.4
   2.4
   2.1
   2.1
   2.2
   2.5
   TCO2
   15
   Glucose
   143
   107
   93
   109
   301
   130
   118
   Other labs: PT / PTT / INR:15.6/66.0/1.4, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:91.5 %,
   Lymph:4.6 %, Mono:3.5 %, Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:1348 IU/L, Ca++:7.4 mg/dL, Mg++:2.8 mg/dL, PO4:3.6
   mg/dL
   Imaging: CHEST (PORTABLE AP) Study Date of [**2127-7-15**] 10:38 AM
   In comparison with the study of [**7-13**], there is little overall change.
   Right chest tube is again seen with the tip in the apex. PICC line
   remains in place. Specifically, no evidence of acute focal pneumonia,
   though there are low lung volumes.
   Microbiology: [**2127-7-12**] 1:51 pm PLEURAL FLUID      PLEURAL FLUID.
    GRAM STAIN (Final [**2127-7-12**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   FLUID CULTURE (Final [**2127-7-15**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2127-7-16**]):
      Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   78 y/o F with hx of HTN, COPD, and new diagnosis of metastatic ovarian
   cancer admitted with confusion and hypotension secondary to hypovolemia
   versus sepsis.
   # Hypotension.  Hypotension thought to be secondary to infection versus
   profound dehydration in setting of new diagnosis of malignancy.  No
   positive culture data to date, but she is being broadly covered with
   vanco/aztreonam/flagyl.  She has moderate ascites, but unable to sample
   this fluid.  Norepinepherine was weaned on [**2127-7-13**], and the patient has
   been stable with periodic fluid boluses but became 19 L positive in the
   setting of minimal uop.  [**2127-7-15**] restarted Norepinephrine
   - New leukocytosis o/n to 18.4, monitor for fever or other localizing
   source and culture as appropriate
   - Cont vanco/aztreonam/flagyl for presumed intra-abdominal course, 10
   day course (now day #5)
   - f/u culture data (NGTD)
   - Stopped fluid boluses as 19L positive; continue with low dose
   Norepinephrine (currently 0.16mcg/kg/min)
   # Leukocytosis: Patient with rapidly increased leukocytosis this AM to
   18+.  No new localizing source of infection.  Not on steroids.
   Cultures with NGTD.
   - Monitor for localizing symptoms
    - Send C.diff if loose stool
   - Send UA
   - Blood culture if febrile; CXR if symptomatic or worsened oxygenation
   # DVTs:  The patient had LENIs, which showed bilateral DVTs.  She was
   started on heparin gtt.
   - continue heparin gtt for now
   - Consider changing to Lovenox [**Hospital1 7**] if Cr stabilizes, as this has shown
   to be superior anticoagulation for cancer patients.
   # Acute on chronic renal failure.  Patient has a history of CKD stage
   IV with baseline creatinine around 1.8.  Creatinine initially improved
   with periodic D5 with HCO3 fluid boluses (from 2.4 to 2.1).  DDx
   includes worsening baseline v ATN in the setting of hypotension.  Now
   continuing to worsen with minimal uop.
   - Trend, holding fluid boluses for volume overload
   - Renally dose meds, avoid nephrotoxins
   - Follow-up renal recs
   - Monitor ionized calcium
   # Altered mental status.  Patient was initiatlly confused, but now more
   alert and oriented.  AMS likely secondary to infection, hypotension,
   renal failure, and now resolving.
   - monitor mental status
   - Psych recommended Zyprexa 2.5 mg PO/IM prn for agitation
   - Defer CT head until patient
s Cr has returned to baseline.
   # Metabolic Acidosis.  +Anion gap.  Likely secondary to renal failure
   and massive saline infusions.  Also with elevated LDH. AG likely
   multiple contributing factors including mild uremia, possibly lactate.
   - Monitor
   - VBG with lactate
   # Ovarian Cancer.  Patient has new diagnosis of widespread metastatic
   ovarian cancer and is saddened by this.  Plan for treatment in future.
   Also with elevated LDH.  She was seen by Heme/Onc yesterday, who
   recommended deferring chemotherapy until infection is resolved and
   patient is no longer hypotensive.
    - Continue to follow Heme/Onc recs
   - Plan for family meeting on Saturday
   ICU Care
   Nutrition: Regular diet
   Lines: PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2127-07-16 07:14:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Altered mental status
   HPI:
   24 Hour Events:
   - Heme/Onc had no new recommendations.  Defer on chemotherapy for now.
   - Psych reassessed patient.  Improved mental status, but may not
   necessarily have the capacity to make decisions regarding treatment at
   present.  Call if any question of leaving.  Recommended Haldol for
   agitation.
   - Spoke to nephew: [**Name (NI) **] will be in town on Saturday.  Until this time, no
   procedures which will cause pain to the patient (i.e. HD), and no
   escalation of care.  As long as patient is stable until Saturday,
   family meeting will occur when he's in town.
   - Renal consulted: agreed with starting Levophed to increase UOP.  Also
   recommended limiting IVFs, check ionized Ca, stop bicarb until Ca is
   corrected, Stop Maalox
   - Ordered HgA1c, as patient's sugars have been high but not on SSI: 6.1
   - UOP on Levo didn't increase.
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2127-7-14**] 12:19 PM
   Aztreonam - [**2127-7-15**] 11:46 PM
   Metronidazole - [**2127-7-15**] 11:46 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-15**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Dyspnea
   Gastrointestinal: distension
   Flowsheet Data as of  [**2127-7-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 75 (70 - 86) bpm
   BP: 97/45(57) {83/36(47) - 123/91(99)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.2 kg
   Height: 62 Inch
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,279 mL
                                                                    405 mL
   PO:
   TF:
   IVF:
                                                                  3,279 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                    261 mL
                                                                     20 mL
   Urine:
                                                                    261 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,018 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   495 K/uL
   118 mg/dL
   2.5 mg/dL
   17 mEq/L
   5.1 mEq/L
   54 mg/dL
   100 mEq/L
   136 mEq/L
   33.5 %
   18.4 K/uL
        [image002.jpg]
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
                             [**2127-7-15**]  02:47 PM
                             [**2127-7-16**]  04:31 AM
   WBC
   12.6
   10.1
   11.1
   18.4
   Hct
   29.6
   30.0
   29.8
   28.1
   33.5
   Plt
   393
   374
   360
   495
   Cr
   2.4
   2.4
   2.4
   2.4
   2.1
   2.1
   2.2
   2.5
   TCO2
   15
   Glucose
   143
   107
   93
   109
   301
   130
   118
   Other labs: PT / PTT / INR:15.6/66.0/1.4, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:91.5 %,
   Lymph:4.6 %, Mono:3.5 %, Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:1348 IU/L, Ca++:7.4 mg/dL, Mg++:2.8 mg/dL, PO4:3.6
   mg/dL
   Imaging: CHEST (PORTABLE AP) Study Date of [**2127-7-15**] 10:38 AM
   In comparison with the study of [**7-13**], there is little overall change.
   Right chest tube is again seen with the tip in the apex. PICC line
   remains in place. Specifically, no evidence of acute focal pneumonia,
   though there are low lung volumes.
   Microbiology: [**2127-7-12**] 1:51 pm PLEURAL FLUID      PLEURAL FLUID.
    GRAM STAIN (Final [**2127-7-12**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   FLUID CULTURE (Final [**2127-7-15**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2127-07-16 10:08:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with recent new diagnosis of metastatic overian ca, presents with
   profound hypotension, now with oliguric atn, bilateral dvts.
   24 Hour Events:
   -seen by hemeonc, no chemo at this time
   -goals of care reviewed with nephew; no escalation of care
   -renal consulted
   -no uop response despite levophed
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Aztreonam - [**2127-7-16**] 07:36 AM
   Metronidazole - [**2127-7-16**] 07:36 AM
   Vancomycin - [**2127-7-16**] 07:36 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-15**] 09:26 PM
   Other medications:
   flagyl, vanco, norepi, heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: No(t) Joint pain
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-16**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 75 (70 - 86) bpm
   BP: 97/46(59) {83/36(47) - 123/91(99)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.2 kg
   Height: 62 Inch
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,279 mL
                                                                    876 mL
   PO:
   TF:
   IVF:
                                                                  3,279 mL
                                                                    876 mL
   Blood products:
   Total out:
                                                                    261 mL
                                                                     20 mL
   Urine:
                                                                    261 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,018 mL
                                                                    856 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , no longer tender
   Extremities: Right: 4+, Left: 4+, no longer tender
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   495 K/uL
   118 mg/dL
   2.5 mg/dL
   17 mEq/L
   5.1 mEq/L
   54 mg/dL
   100 mEq/L
   136 mEq/L
   33.5 %
   18.4 K/uL
        [image002.jpg]
                             [**2127-7-12**]  07:06 PM
                             [**2127-7-13**]  04:21 AM
                             [**2127-7-13**]  04:42 AM
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
                             [**2127-7-15**]  02:47 PM
                             [**2127-7-16**]  04:31 AM
   WBC
   12.6
   10.1
   11.1
   18.4
   Hct
   29.6
   30.0
   29.8
   28.1
   33.5
   Plt
   393
   374
   360
   495
   Cr
   2.4
   2.4
   2.4
   2.4
   2.1
   2.1
   2.2
   2.5
   TCO2
   15
   Glucose
   143
   107
   93
   109
   301
   130
   118
   Other labs: PT / PTT / INR:15.6/66.0/1.4, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:91.5 %,
   Lymph:4.6 %, Mono:3.5 %, Eos:0.4 %, Fibrinogen:356 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:1348 IU/L, Ca++:7.4 mg/dL, Mg++:2.8 mg/dL, PO4:3.6
   mg/dL
   Imaging: cxr: unchanged, r chest tube
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   78F with recent new diagnosis of metastatic overian ca, bilateral dvts,
   presents with profound hypotension, now with oliguric atn.
   hypotension, now new hypothermia and leukocytosis
   -cont support with pressors; no pressors
   -cont current abx but consider expanding to include coverage for vre,
   fungus
   -recheck cultures
   arf/atn
   [**Name8 (MD) **] rrt given goals of care
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments: family meeting pending this
   sat
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-07-17 07:33:00 Physician Resident Progress Note
Chief Complaint: Hypotension and ovarian cancer
   24 Hour Events:
   - Worsened leukocytosis 18.4 in AM, repeat 19 with toxic granulation
   noted
   - Hypothermic to 95.5, increased pressor requirement
   - Cultured, UA with bacteria no WBC (culture pending)
   - Discussed coverage with ID, agree to adding Micafungin for gut
   translocation, would hold Linezolid for now; started Micafungin
   - Repeated galactomannan and B-glucan (first set [**7-12**] pending)
   - Renal recs: decrease Aztreonam dosing to 500mg IV q8H, signing off
   for now.
   - Pshyce: noted mild delirium and with decreased appreciation of
   medical situation
   - Pharmacy maximally concentrated all meds to minimize fluids; only
   could double concentrate Norepinephrine
   - onc:  no role for chemo right now given instability in icu and
   inability to obtain consent
   - lactate rising to 7, increasing pressor requirement
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Metronidazole - [**2127-7-16**] 07:36 AM
   Vancomycin - [**2127-7-16**] 07:36 AM
   Aztreonam - [**2127-7-17**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-7-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 81 (76 - 90) bpm
   BP: 114/52(66) {73/30(41) - 122/70(74)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,690 mL
                                                                    323 mL
   PO:
             TF:
   IVF:
                                                                  1,690 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                     60 mL
   Urine:
                                                                     45 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,645 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   Gen: NAD, less thirsty
   CV: RRR, no m/r/g/
   Pulm: CTA anteriorly
   Abd: obese, firm, bowel sounds present
   Ext: b/l pitting edema
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   500 K/uL
   10.7 g/dL
   159 mg/dL
   2.9 mg/dL
   15 mEq/L
   5.6 mEq/L
   55 mg/dL
   97 mEq/L
   133 mEq/L
   35.1 %
   19.3 K/uL
        [image002.jpg]
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
                             [**2127-7-15**]  02:47 PM
                             [**2127-7-16**]  04:31 AM
                             [**2127-7-16**]  10:10 AM
                             [**2127-7-17**]  03:23 AM
                             [**2127-7-17**]  05:30 AM
   WBC
   10.1
   11.1
   18.4
   19.0
   19.3
   Hct
   30.0
   29.8
   28.1
   33.5
   34.2
   35.1
   Plt
   374
   360
   495
   518
   500
   Cr
   2.4
   2.4
   2.1
   2.1
   2.2
   2.5
   2.9
   2.9
   Glucose
   93
   109
   301
   130
   118
   131
   159
   Other labs: PT / PTT / INR:14.5/68.8/1.3, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:356 mg/dL,
   Lactic Acid:6.7 mmol/L, LDH:1348 IU/L, Ca++:9.0 mg/dL, Mg++:2.9 mg/dL,
   PO4:5.8 mg/dL
   Assessment and Plan
   78 y/o F with hx of HTN, COPD, and new diagnosis of metastatic ovarian
   cancer admitted with confusion and hypotension secondary to hypovolemia
   versus sepsis.
   # Hypotension.  Hypotension thought to be secondary to infection versus
   profound dehydration in setting of new diagnosis of malignancy.  No
   positive culture data to date, but she is being broadly covered with
   vanco/aztreonam/flagyl.  She has moderate ascites, but unable to sample
   this fluid.  Norepinepherine was weaned on [**2127-7-13**], and the patient has
   been stable with periodic fluid boluses but became 19 L positive in the
   setting of minimal uop.  [**2127-7-15**] restarted Norepinephrine
   - New leukocytosis o/n to 18.4, monitor for fever or other localizing
   source and culture as appropriate
   - Cont vanco/aztreonam/flagyl for presumed intra-abdominal course, 10
   day course (now day #5)
   - f/u culture data (NGTD)
   - Stopped fluid boluses as 19L positive; continue with low dose
   Norepinephrine (currently 0.16mcg/kg/min)
   # Leukocytosis: Patient with rapidly increased leukocytosis this AM to
   18+.  No new localizing source of infection.  Not on steroids.
   Cultures with NGTD.
   - Monitor for localizing symptoms
   - Send C.diff if loose stool
   - Send UA
   - Blood culture if febrile; CXR if symptomatic or worsened oxygenation
   # DVTs:  The patient had LENIs, which showed bilateral DVTs.  She was
   started on heparin gtt.
   - continue heparin gtt for now
   - Consider changing to Lovenox [**Hospital1 7**] if Cr stabilizes, as this has shown
   to be superior anticoagulation for cancer patients.
   # Acute on chronic renal failure.  Patient has a history of CKD stage
   IV with baseline creatinine around 1.8.  Creatinine initially improved
   with periodic D5 with HCO3 fluid boluses (from 2.4 to 2.1).  DDx
   includes worsening baseline v ATN in the setting of hypotension.  Now
   continuing to worsen with minimal uop.
   - started on pressor for increased flow to kidneys
   - Renally dose meds, avoid nephrotoxins
   - Follow-up renal recs
   - Monitor ionized calcium
   # Altered mental status.  Patient was initiatlly confused, but now more
   alert and oriented.  AMS likely secondary to infection, hypotension,
   renal failure, and now resolving.
   - monitor mental status
   - Psych recommended Zyprexa 2.5 mg PO/IM prn for agitation
   # Metabolic Acidosis.  +Anion gap.  Likely secondary to renal failure
   and massive saline infusions.  Also with elevated LDH. AG likely
   multiple contributing factors including mild uremia, possibly lactate.
   - Monitor
   - VBG with lactate
   # Ovarian Cancer.  Patient has new diagnosis of widespread metastatic
   ovarian cancer and is saddened by this.  Plan for treatment in future.
   Also with elevated LDH.  She was seen by Heme/Onc yesterday, who
   recommended deferring chemotherapy until infection is resolved and
   patient is no longer hypotensive.
    - Continue to follow Heme/Onc recs
   - Plan for family meeting on Saturday
   ICU Care
   Nutrition: Regular diet
   Lines: PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2127-07-17 10:50:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78F with recent diagnosis of metastatic ovarian vs. primary peritoneal
   adenocarcinoma, presented with severe hypotension, likely sepsis though
   source never identified, with aneuric renal failure likely ATN, now
   with progression of disease:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-7-16**] 10:44 AM
 URINE CULTURE - At [**2127-7-16**] 10:44 AM
   -progressive hypotension, metabolic acidosis
   -remains comfortable
   -emails exchanged with pcp, [**Name10 (NameIs) **] agrees that pt never wanted aggressive
   care
   -seen by onc; confirmed that there is no role for chemo at this
   Allergies:
   Penicillins
   Anaphylaxis;
   Influenza Virus Vaccines
   arm swelling;
   Iodine; Iodine Containing
   pruritis;
   Last dose of Antibiotics:
   Metronidazole - [**2127-7-16**] 07:36 AM
   Vancomycin - [**2127-7-16**] 07:36 AM
   Aztreonam - [**2127-7-17**] 08:59 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-7-16**] 08:00 PM
   Other medications:
   pantopr, vanco, nerepi, heparin, flagyl, aztreonam, mica
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: anxiety
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-7-17**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.3
   HR: 80 (76 - 90) bpm
   BP: 93/40(53) {73/30(41) - 122/70(74)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,690 mL
                                                                    626 mL
   PO:
             TF:
   IVF:
                                                                  1,690 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                     80 mL
   Urine:
                                                                     45 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,645 mL
                                                                    546 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Non-tender, Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.7 g/dL
   500 K/uL
   159 mg/dL
   2.9 mg/dL
   15 mEq/L
   5.6 mEq/L
   55 mg/dL
   97 mEq/L
   133 mEq/L
   35.1 %
   19.3 K/uL
        [image002.jpg]
                             [**2127-7-13**]  04:30 PM
                             [**2127-7-13**]  11:06 PM
                             [**2127-7-14**]  04:10 AM
                             [**2127-7-14**]  09:04 PM
                             [**2127-7-15**]  03:04 AM
                             [**2127-7-15**]  02:47 PM
                             [**2127-7-16**]  04:31 AM
                             [**2127-7-16**]  10:10 AM
                             [**2127-7-17**]  03:23 AM
                             [**2127-7-17**]  05:30 AM
   WBC
   10.1
   11.1
   18.4
   19.0
   19.3
   Hct
   30.0
   29.8
   28.1
   33.5
   34.2
   35.1
   Plt
   374
   360
   495
   518
   500
   Cr
   2.4
   2.4
   2.1
   2.1
   2.2
   2.5
   2.9
   2.9
   Glucose
   93
   109
   301
   130
   118
   131
   159
   Other labs: PT / PTT / INR:14.5/68.8/1.3, ALT / AST:32/82, Alk Phos / T
   Bili:100/0.2, Amylase / Lipase:14/11, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:356 mg/dL,
   Lactic Acid:6.7 mmol/L, LDH:1348 IU/L, Ca++:9.0 mg/dL, Mg++:2.9 mg/dL,
   PO4:5.8 mg/dL
   Imaging: cxr: small bilateral effusions
   Microbiology: new cultures pending
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   78F with recent diagnosis of metastatic ovarian vs. primary peritoneal
   adenocarcinoma, presented with severe hypotension, likely sepsis though
   source never identified, with aneuric renal failure likely ATN, now
   with progression of disease. Pt looks comfortable. Will continue
   pressor support but will not escalate, hoping that her nephew comes in
   time, though this seems unlikely.  We will continue to ascertain her
   symptoms and treat appropriately, focusing on comfort.
   -cont pressors, no escalation
   -cont abx
   -cont heparin
   -no dialysis
   -minimize lab checks
   ICU Care
   Nutrition: as much as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2127-7-12**] 09:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill